US04675047
A mixture of 4-[N-(6-chloro-2-quinazolinyl)-N-methylamino]phenol (0.52 g), ethyl 2-bromopropionate (0.40 g), potassium carbonate (0.28 g) and methyl ethyl ketone (25 ml) was heated under reflux for a period of 18 hours. After cooling, the mixture was diluted with water and the aqueous mixture was extracted with dichloromethane. The dichloromethane extract was dried (anhydrous sodium sulfate) and the solvent was removed under reduced pressure. The residue was purified by chromatography over silica gel (eluant dichloromethane) to give ethyl 2-{4-[N-(6-chloro-2-quinazolinyl)-N-methylamino]phenoxy}propionate as a yellow oil. The assigned structure was confirmed by proton magnetic resonance (pmr) spectroscopy and mass spectrometry. Pmr spectrum (CDCl3 ; δ in ppm): 8.93 (1H, s, quinazoline hetero ring proton); 7.60 (3H, s, quinazoline benzo-ring protons); 7.13 (4H, d of d, phenoxy protons); 4.80 (1H, q, CH--CH3); 4.27 (2H, q, CH2 --CH3); 1.60 (3H, d, CH--CH3); 1.27 (3H, t, CH2 --cH3).

reactant | 4-[N-(6-chloro-2-quinazolinyl)-N-methylamino]phenol | 0.52 g | ClC=1C=C2C=NC(=NC2=CC1)N(C)C1=CC=C(C=C1)O | C15H12ClN3O
reactant | ethyl 2-bromopropionate | 0.40 g | BrC(C(=O)OCC)C | C5H9BrO2
reactant | potassium carbonate | 0.28 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl ethyl ketone | 25 ml | C(C)C(=O)C | C4H8O
solvent | water | O | H2O
product | ethyl 2-{4-[N-(6-chloro-2-quinazolinyl)-N-methylamino]phenoxy}propionate | ClC=1C=C2C=NC(=NC2=CC1)N(C)C1=CC=C(OC(C(=O)OCC)C)C=C1 | C20H20ClN3O3
